US05998433
b) Synthesis of N,N-dimethyl-[5-[4-(3,4-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-[4-(3,4-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.139 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This was concentrated, and recrystallized from methanol-diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-[4-(3,4-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.139 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C24H22Cl2N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-[4-(3,4-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(C1=CC(=C(C=C1)Cl)Cl)=O)=O | InChI=1S/C24H22Cl2N2O3.ClH/c1-27(2)14-19-11-18-13-28(10-9-22(18)31-19)24(30)16-5-3-15(4-6-16)23(29)17-7-8-20(25)21(26)12-17;/h3-8,11-12H,9-10,13-14H2,1-2H3;1H
